US06432982B1
[2-(4-Methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]3.5-dimethylphenyl]methanone
2.9 g of the title compound was prepared from 2 g of 2-(4-methoxyphenyl)-6-methoxybenzo[b]thiophene and 4-[2-(1-piperidinyl)ethoxy]-3,5,-dimethylbenzoic acid in a manner similar to that used in Preparation 15.

reactant | 2-(4-methoxyphenyl)-6-methoxybenzo[b]thiophene | 2 g | COC1=CC=C(C=C1)C1=CC2=C(S1)C=C(C=C2)OC | C16H14O2S
reactant | 4-[2-(1-piperidinyl)ethoxy]-3,5,-dimethylbenzoic acid | N1(CCCCC1)CCOC1=C(C=C(C(=O)O)C=C1C)C | C16H23NO3
product | [2-(4-Methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]3.5-dimethylphenyl]methanone | 2.9 g | COC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)C(=O)C2=CC(=C(C(=C2)C)OCCN2CCCCC2)C | C32H35NO4S
